US04563310
Following the procedure of Example 1, a mixture of 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene (2.0 g, 5.52 mmol) and dimethyl phenylphosphonite (1.4 g, 8.28 mmol) in 4 ml of acetonitrile is heated under reflux overnight. The crude product is purified to yield methyl P-phenyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate, m/s 471 (M+).

reactant | 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene | 5.52 mmol, 2.0 g | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N2O5
reactant | dimethyl phenylphosphonite | 8.28 mmol, 1.4 g | C1(=CC=CC=C1)P(OC)OC | C8H11O2P
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | methyl P-phenyl-2-nitro-5-(2-chloro-4-trifluoromethylphenoxy)phenylphosphinate | C1(=CC=CC=C1)P(OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)Cl)[N+](=O)[O-] | C20H14ClF3NO5P
